US04841067
To a solution of 176 mg of (3S)-3-carbobenzoxyamino-5-methyl-1,2-epoxyhexane in 10 ml of methanol was added 2 g of dry neutral alumina, and the mixture was heated under reflux for 16 hours. After filtration of the alumina, the filtrate was evaporated under reduced pressure. The residue was purified by preparative silica gel thin layer chromatography (developing solvent: lower layer of chloroform/methanol/water=8/3/1 by volume) to obtain 96 mg of (2RS, 3S)-3-carbobenzoxyamino-2-hydroxy-5-methylhexyl methyl ether as a colorless viscous oil.

reactant | (3S)-3-carbobenzoxyamino-5-methyl-1,2-epoxyhexane | 176 mg | C(=O)(OCC1=CC=CC=C1)N[C@H](C1CO1)CC(C)C | C15H21NO3
reactant | methanol | 10 ml | CO | CH4O
product | (2RS, 3S)-3-carbobenzoxyamino-2-hydroxy-5-methylhexyl methyl ether | 96 mg | COCC([C@H](CC(C)C)NC(=O)OCC1=CC=CC=C1)O | C16H25NO4
